Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Feraheme / shell fish
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission Labs: 
___: 
WBC: 6.7 > HGB: 9.0* / HCT: 27.6* < Plt Count: 188
Na: 138 / K: 4.0 > Cl: 104 / CO2: 24 < BUN: 13 / Creat: 0.7 ;
Glucose: 84
eGFR: 115/139

___: 
WBC: 12.1 > HGB: 10.9* / HCT: 33.6* < Plt Count: 195
INR: 1.1
Na: 134 / K: 4.5 > Cl: 101 / CO2: 21 < BUN: 18 / Creat: 0.8 ;
Glucose: 94

Micro: 

UA: Trace ketones, otherwise negative

UCx: ___ 12:30 pm URINE      ___. 
  
   URINE CULTURE (Pending): 

Radiology Studies

___ 02:52   Chest (Pa & Lat) No evidence of pneumonia. 

___ 12:48 CT Abd & Pelvis With Contrast 
1. The rectum is dilated with mesorectal fat stranding which is 
non specific in the setting of the prior hemorroidectomy. 
However proctitis cannot be excluded.
2. Trace ascites in the pericolic gutters. 

Discharge labs: 

___ 04:40AM BLOOD WBC-5.3 RBC-3.03* Hgb-8.7* Hct-27.5* 
MCV-91 MCH-28.7 MCHC-31.6* RDW-12.5 RDWSD-41.3 Plt ___
___ 09:30AM BLOOD Neuts-83.8* Lymphs-4.7* Monos-10.7 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.14* AbsLymp-0.57* 
AbsMono-1.30* AbsEos-0.01* AbsBaso-0.02
___ 04:40AM BLOOD Glucose-78 UreaN-10 Creat-0.8 Na-141 
K-3.9 Cl-103 HCO3-27 AnGap-11
___ 04:40AM BLOOD ALT-15 AST-19 AlkPhos-67 TotBili-0.3
 
Brief Hospital Course:
Mr. ___ is a ___ ___ male with history 
of iron deficiency anemia now 6 days s/p right anterior and 
posterior hemorrhoidectomies ___- Dr.
___ for grade III-IV hemorrhoids who presents with large 
volume rectal bleeding (now stopped) complicated by acute blood 
loss anemia (now stable) and relative hypotension (with normal 
lactate and no evidence of organ hypoperfusion), admitted for 
further BP monitoring. On arrival, he was borderline hypotensive 
for which he was given fluid. His BRBPR was likely ___ to 
straining in the setting of obstipation for which he was given 
multiple laxative agents with good effect. He continued to have 
some BRBPR with bowel movement but HH remained relatively 
stable. Orthostasis was negative prior to discharge. He was 
given prescriptions for laxative and was instructed to follow up 
with his surgeon. 

ACUTE/ACTIVE PROBLEMS:
#Constipation
#BRBPR
___
#Acute blood loss anemia
Recent hemorrhoidectomy presents with large BRBPR ___ to
straining from severe constipation with concomitant blood loss
anemia. Primary  problem is likely constipation. which could be
?post op ileus? Last ___ in ___ without significant finding. 
CT
on this admission shows large stool burden. was given aggressive
bowel regiment while watching ___ with MOM, ___, and 
lactulose with good effect. No surgical intervention at this 
time per surgery. Will avoid steroid rectal cream for now as it 
can inhibit wound healing. He was given lidocaine ointment for 
rectal pain on discharge with follow up.
 
#enlarged Bladder
CT a/p demonstrated an enlarged bladder concerning for urinary
retention. No self reported hx. significant Bladder enlargement
can obstruct GI outflow. No postvoid residual. Likely ___ to 
severe constipation compression GU outlet. Resolved.

#Sympatomatic Borderline hypotension
Likely ___ to acute blood lost. Stable at this time. the patient
is not on any antihypertensive at this time. Orthostatic stable 
prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q6H:PRN BREAKTHROUGH PAIN 
2. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours prn Disp #*25 Tablet Refills:*0 
2.  Lactulose 30 mL PO DAILY 
RX *lactulose 20 gram/30 mL 30 ml by mouth once a day prn Disp 
#*200 Gram Refills:*1 
3.  Lidocaine 5% Ointment 1 Appl TP QID:PRN rectal pain 
RX *lidocaine 5 % apply to the rectal area qid prn Refills:*1 
4.  Milk of Magnesia 30 mL PO BID 
RX *magnesium hydroxide [Milk of Magnesia] 400 mg/5 mL 30 ml by 
mouth daily prn Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 dose by 
mouth daily prn Disp #*10 Gram Refills:*0 
6.  TraMADol 50 mg PO Q6H:PRN BREAKTHROUGH PAIN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal bleed
Anemia
constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please continue to use ___ bath for comfort. 
You will be given a prescription with lidocaine for rectal pain.

Please follow up with your PCP and surgeon.
 
Followup Instructions:
___